US07939526B2
Under a nitrogen atmosphere 2-mercaptopyridine (1.23 g, 11.1 mmol) was added to a suspension of sodium hydride (0.41 g of 60%, 10 mmol) in DMF (30 mL). After hydrogen evolution had ceased, 1-[2-(3-chloropropoxy)ethyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (3.20 g, 9.23 mmol) was added. After 2 hours analysis by HPLC indicated that starting material remained. 2-Mercaptopyridine (0.30 g) and sodium hydride (0.10 g) were added. After 3.5 hours the reaction mixture was poured into water with rapid stirring. The resulting brown solid was isolated by filtration and then triturated with diethyl ether to provide 3.71 g of 2-propyl-1-(2-{3-[(pyridin-2-yl)thio]propoxy}ethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a solid.

reactant | 2-mercaptopyridine | 11.1 mmol, 1.23 g | SC1=NC=CC=C1 | C5H5NS
reactant | sodium hydride | 10 mmol, 0.41 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-[2-(3-chloropropoxy)ethyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 9.23 mmol, 3.20 g | ClCCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C18H23ClN4O
reactant | 2-Mercaptopyridine | 0.30 g | SC1=NC=CC=C1 | C5H5NS
reactant | sodium hydride | 0.10 g | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-propyl-1-(2-{3-[(pyridin-2-yl)thio]propoxy}ethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 3.71 g | C(CC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCOCCCSC1=NC=CC=C1 | C23H27N5OS
